US05866560
a) 11β-Fluoro-estr-4-ene-3,17-dione
4.6 ml of perfluorobutane-1-sulfonic acid fluoride is added in drops to 5.0 g of 11α-hydroxy-estr-4-ene-3,17-dione in 100 ml of toluene and 7.3 ml of 1,8-diazabicyclo[5,4,0]undec-7-ene at 0° C. After 30 minutes, the solution is diluted with ethyl acetate, washed with saturated sodium chloride solution, dried and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient, 3.8 g of 11β-fluoro-estr-4-ene-3,17-dione with a melting point of 173°-174° C. is obtained.

reactant | perfluorobutane-1-sulfonic acid fluoride | 4.6 ml | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | 11α-hydroxy-estr-4-ene-3,17-dione | 5.0 g | O[C@H]1[C@@H]2[C@H]3CCC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C18H24O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1,8-diazabicyclo[5,4,0]undec-7-ene | 7.3 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11β-Fluoro-estr-4-ene-3,17-dione | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C18H23FO2
